US07608629B2
Add slowly a solution of 1-methyl-piperidin-4-ol (2.98 g) in DMF (20 mL) into a suspension of sodium hydride (95%) (0.72 g) in DMF (25 mL) at room temperature. Heat the mixture in an oil bath at 65° C. After 30 min., add 1-bromo-2,3-difluoro-benzene (5.0 g) and stir at 65° C. After 2 hr., partition the reaction mixture between water and ether, dry over anhydrous sodium sulfate, and evaporate to give a yellow oil. Separate on a silica gel column (110 g, solvent: ether, ether-2M NH3 in methanol 19:1, 9:1) to obtain 4-(2-bromo-6-fluoro-phenoxy)-1-methyl-piperidine (4.06 g, 54% yield) and the title compound (1.60 g, 21% yield). Mass spectrum (electric spray) m/z=288 (M+1), 290 (M+2+1); 1H NMR (CDCl3): 7.12 (m, 1H), 6.92 (m, 2H), 4.30 (m, 1H), 2.69 (m, 2H), 2.30 (s, 3H), 2.28 (m, 2H), 1.97 (m, 2H), 1.89 (m, 2H).

reactant | 1-methyl-piperidin-4-ol | 2.98 g | CN1CCC(CC1)O | C6H13NO
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 1-bromo-2,3-difluoro-benzene | 5.0 g | BrC1=C(C(=CC=C1)F)F | C6H3BrF2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 4-(2-bromo-6-fluoro-phenoxy)-1-methyl-piperidine | 4.06 g, 54% yield | BrC1=C(OC2CCN(CC2)C)C(=CC=C1)F | C12H15BrFNO
